US09227970B2
A mixture of 5-bromopyridin-2-amine (2 g, 11.6 mmol), benzonitrile (26.2 g, 26.1 ml, 254 mmol), 1,10-phenanthroline monohydrate (115 mg, 578 μmol) and copper (I) bromide (82.9 mg, 578 μmol) was placed in a 100 ml 2 necked flask. The mixture was heated to 135° C. while air was bubbled gently through the mixture for 2 days. Another portion of copper (I) bromide (82.9 mg, 578 μmol) and 1,10-phenanthroline monohydrate (115 mg, 578 μmol) was added and bubbling and heating was continued for further 8 hours. The solvent was evaporated. Purification by flash chromatography on a 20 g silicagel column using heptane/ethyl acetate 10-50% as eluent and evaporation of the solvents afforded 6-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine (1.19 g, 38%) as light yellow solid. Mp.: 146° C. MS: m/z=274/276 (M+H+).

reactant | 5-bromopyridin-2-amine | 11.6 mmol, 2 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | benzonitrile | 254 mmol, 26.1 ml, 26.2 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | 1,10-phenanthroline monohydrate | 578 μmol, 115 mg | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
reactant | 1,10-phenanthroline monohydrate | 578 μmol, 115 mg | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
catalyst | copper (I) bromide | 578 μmol, 82.9 mg | [Cu]Br
catalyst | copper (I) bromide | 578 μmol, 82.9 mg | [Cu]Br
product | 6-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine | 1.19 g, 38% | BrC=1C=CC=2N(C1)N=C(N2)C2=CC=CC=C2 | C12H8BrN3
